Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
bee venom (honey bee)
 
Attending: ___.
 
Chief Complaint:
agitation
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient is a ___ from dementia unit, hx Alzheimer's, recently 
increasing paranoia directed at staff with aggressive outbursts, 
today reportedly struck a staff member in the chest. Pt was 
combative in waiting room requiring 4 point restraint. In the 
ED, patient was mumbling responses to ___ interpreter on 
phone, unable to obtain complaints/HPI from him although by 
report denied physical complaints to a ___ interpreter at 
facility.

Per wife, patient can be combatitive at baseline usually when 
people try to change him or w/ attempts at assisting with daily 
hygeine. he has attacked nursing staff at his dementia unit 1x 
in past. She notes that he has been more combatitive the past 
few days compared to his baseline. He has not had cough, fever, 
abd pain, diarrhea. Of note, he used to be able to speak ___ 
well, there is no need for interpreter as he has lost his 
"language" function and cannot communicate effectively. She 
reports that he has not had issues with swallowing or aspiration 
in the past.

Per history obtained by psych, patient has lost significant 
weight and has worsening behavior x2 weeks. His level of 
attention has worsened over the past few months. 

In the ED, initial vitals were: 97.9 82 144/100 16 95% RA. Labs 
significant for WBC 8.8, Cr 0.8, T bili 1.9 with rest LFTs wnl. 
UA and Utox negative. CT head with moderate atrophy without 
evidence of acute process. CXR with patchy infiltrate in L>R 
bases. He was given 500mg azithromycin, amp-sulbactam, 2.5mg IM 
haldol x2, IM olanzapine 2.5 x1 and 10mg x2, and lorazepam 1mg 
IM x2. After receiving olanzapine and haldol, QTc increased from 
440 to 470. He was seen by psychiatry who felt the patient met 
___ criteria. Recommended 25mg seroquel PRN agitation, 
with haldol/ativan if unable to take PO with close Qtc 
monitoring. 
 
On the floor, patient is wandering around the unit, not 
re-directable. Mumbling incoherently.
 
Past Medical History:
AD
anemia
gastritis
___ syndrome
hearing loss
 
Social History:
___
Family History:
unable to obtain due to mental status
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
Vitals: T:97.5 BP:132/81 P:932 R:18 O2:98/RA  
General: Alert, wandering, AOx0-1 (unable to clearly assess)
unable to examine due to mental status

DISCHARGE PHYSICAL EXAM:
=========================
Vitals: 98.2,112/57,71,16,95%on RA  
General: Alert, wandering, AOx0-1 (unable to clearly assess). 
calm
HEENT: MMM. sclera anicteric
Cardiac: RRR. normal S1 and S2. no m/r/g appreciates
Lungs: CTAB. no cough, tachypnea
Abdomen: positive BS, NTND
Ext: no edema. warm, well perfused

 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:40PM BLOOD WBC-8.8 RBC-4.42* Hgb-13.5* Hct-40.5 
MCV-92 MCH-30.6 MCHC-33.4 RDW-14.0 Plt ___
___ 05:40PM BLOOD Glucose-100 UreaN-17 Creat-0.8 Na-135 
K-4.1 Cl-99 HCO3-23 AnGap-17
___ 05:40PM BLOOD ALT-20 AST-18 AlkPhos-69 TotBili-1.9*
___ 05:40PM BLOOD Calcium-9.1 Phos-3.1 Mg-2.0
___ 05:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:40AM BLOOD Lactate-1.4

IMAGING/STUDIES:
================
___ CT head:
No evidence of acute intracranial process. Moderate atrophy.

___ CXR:
Patchy opacities in the left lung base and probably in the right 
lung base may
represent aspiration versus infection.

DISCHARGE LABS:
===============

___ 04:15AM BLOOD Glucose-96 UreaN-25* Creat-0.9 Na-138 
K-3.9 Cl-98 HCO3-27 AnGap-17
___ 04:15AM BLOOD Calcium-9.7 Phos-4.8* Mg-2.2
 
Brief Hospital Course:
Patient is a ___ with a h/o dementia who presented with 
agitation. He was evaluated for underlying medical cause, 
including infection, and work-up was unrevealing. Patient's 
agitation improved during his hospitalization. His initial 
symptoms were felt to be secondary to worsening underlying 
delirium.

BRIEF HOSPITAL COURSE:

#  Agitation with known AD: Symptoms were felt to be likely 
secondary to delirium imposed on dementia vs worsening dementia. 
Per rehab, has not had any recent medication changes and patient 
has denied pain to interpreter, which would be high on 
differential for delirium. He has no significant signs for 
infection with negative UA, no leukocytosis and afebrile. CXR 
showed possible opacities with aspiration vs pna, however he 
demonstrated no clinical signs of pna during his 
hospitalization. His agitation was felt to represent worsening 
of underlying dementia. His symptoms improved during his 
hospitalization. 

#Mild B12 deficiency: Patient found to have B12 level of 280. He 
was started on B12 replacement therapy. 

# BPH: continued home tamsulosin

TRANSITIONAL ISSUES:
====================
- Consider ongoing environmental modification to help avoid 
triggers for agitation
- Continue seroquel 12.5mg qhs:prn agitation. Consider switching 
to another medication in the same class with ongoing input and 
discussion with family
- continue B12 supplementation for mild deficiency
# CODE:  per MOLST ___ DNR/DNI
# CONTACT: wife contact info: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone Cream 1% 1 Appl TP BID 
2. melatonin 5 mg sublingual QHS 
3. Senna 17.2 mg PO QHS 
4. Tamsulosin 0.4 mg PO QHS 
5. TraZODone 12.5 mg PO TID 
6. TraZODone 50 mg PO QHS 
7. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Senna 17.2 mg PO QHS 
3. Tamsulosin 0.4 mg PO QHS 
4. TraZODone 50 mg PO QHS 
5. QUEtiapine Fumarate 12.5 mg PO QHS:PRN agitation 
6. Cyanocobalamin 50 mcg PO DAILY 
7. Hydrocortisone Cream 1% 1 Appl TP BID 
8. melatonin 5 mg sublingual QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Acute agitation secondary to Alzheimers dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of ___ at ___. 
___ came in due to confusion and agitation at our rehab 
facility. We believe this is related to a progression in your 
previously diagnosed dementia. ___ had no evidence of an 
infection. We started ___ on medication to help agitation 
symptoms.
 
Followup Instructions:
___